US05705531
Starting from 3.05 g of (1S,3aS,5S,7aR)-1-acetoxymethyl-5-(3-hydroxymethylphenyl)-7a-methylperhydroinden-3a-ol, by reaction with tert-butyldimethylchlorosilane using the procedure described by Kendall P. M. et al., (J. Org. Chem. 1979, 44, 1421), 3.88 g of (1S,3aS,5S,7aR)-1-acetoxymethyl-5-(3-tert-butyldimethylsilyloxymethylphenyl)-7a-methylperhydroinden-3a-ol were obtained as a white foam. The crude product was dissolved in 30 ml of methanol and 9 ml of 4N NaOH were added. After stirring at room temperature for 8 hrs, the reaction mixture was neutralised with 3N HCl, concentrated in vacuo and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure to give 3.17 g of (1S,3aS,5S,7aR)-1-hydroxymethyl-5-(3-tert-butyldimethylsilyloxymethylphenyl)-7a-methylperhydroinden-3a-ol as a white solid.

reactant | (1S,3aS,5S,7aR)-1-acetoxymethyl-5-(3-hydroxymethylphenyl)-7a-methylperhydroinden-3a-ol | 3.05 g | C(C)(=O)OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC(=CC=C1)CO)O | C20H28O4
reactant | tert-butyldimethylchlorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
product | (1S,3aS,5S,7aR)-1-acetoxymethyl-5-(3-tert-butyldimethylsilyloxymethylphenyl)-7a-methylperhydroinden-3a-ol | 3.88 g | C(C)(=O)OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC(=CC=C1)CO[Si](C)(C)C(C)(C)C)O | C26H42O4Si
